US08048887B2
5-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid
Methyl 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoate (0.9 g, 2 mmol, 1 eq) and sodium hydroxide (0.4 g, 10 mmol, 5 eq) were dissolved in methanol/water (20/5 ml) and the reaction was stirred at 50° C. for 10 h. Then the reaction mixture was concentrated and diluted with water and the pH of the solution was brought to 3 by using Conc HCl. The solid obtained was filtered and dried overnight. Yield: 0.72 g (82%). 1H NMR (400 MHz, DMSO-d6): δ 2.29 (s, 3H), 2.87 (d, 3H), 3.87 (s, 3H), 7.09 (s, 1H), 7.40-7.60 (m, 3H), 7.57 (m, 2H), 7.65 (d, 1H, J=8.74 Hz), 7.98-8.01 (m, 2H), 8.46 (q, 1H, J=4.40 Hz), 12.5 (br s, 1H). LCMS: (ES+) m/z=434 (M+H) Method: Mphase A: water; Mphase B: 0.1% acetone in water; Flow: 2 mL/Min.

reactant | Methyl 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoate | 2 mmol, 0.9 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)OC)C2)OC)C | C26H22FNO5
reactant | sodium hydroxide | 10 mmol, 0.4 g, 5 eq | [OH-].[Na+]
solvent | methanol water | 5 ml | CO.O
product | 5-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H20FNO5
